US07834000B2
Ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-yl)acetate
A solution of 2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-yl)acetic acid (2.2 g, 7.2 mmol) in EtOH (20 ml) and H2SO4 (1 ml) was refluxed for 16 hours. The solution was evaporated to dryness and the residue was taken up in EtOAc and washed with sat. aq. Na2CO3 (3×), brine and evaporated to give the desired product as an oil.

reactant | 2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-yl)acetic acid | 7.2 mmol, 2.2 g | C(CC(C)C)N1C(SC(C1=O)CC(=O)O)C1=CC=CC=C1 | C16H21NO3S
reactant | EtOH | 20 ml | CCO | C2H6O
solvent | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
product | Ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-yl)acetate | C(CC(C)C)N1C(SC(C1=O)CC(=O)OCC)C1=CC=CC=C1 | C18H25NO3S
